US04443607
18 g of thionyl chloride was added dropwise to a mixture of 27.9 g of 2-(2-hydroxypropyl)-4-phenyl-1(2H)-isoquinolone prepared as described above, 11.1 g of triethylamine and 200 ml of benzene and then the resulting mixture was stirred at 50° to 60° C. for 1 hour. After allowing the mixture to cool, water was added to the mixture which was then thoroughly shaked. The benzene layer was separated and dried over sodium sulfate. The solvent was distilled off, and the resulting crystals were recrystallized from a mixture of chloroform and petroleum ether to obtain 25.3 g (85% yield) of 2-(2-chloropropyl)-4-phenyl-1(2H)-isoquinolone having a melting point of 141° C. as colorless needles.

reactant | thionyl chloride | 18 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-hydroxypropyl)-4-phenyl-1(2H)-isoquinolone | 27.9 g | OC(CN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O)C | C18H17NO2
reactant | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(2-chloropropyl)-4-phenyl-1(2H)-isoquinolone | 25.3 g, 85% yield | ClC(CN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O)C | C18H16ClNO
